US05220024
Diethyl-2-chloroethylidene malonate
A solution of titanium (IV) chloride (11 ml, 0.1M) in carbon tetrachloride (25 ml) was added dropwise to anhydrous tetrahydrofuran (200 ml) at 0° under nitrogen. On completion of the addition, diethyl malonate (7.6 ml, 50 mM) and anhydrous chloroacetaldehyde (5 g, 63 mM) were added, then a solution of pyridine (16 ml, 0.2M) in anhydrous tetrahydrofuan (35 ml) was added dropwise over 2 hours at 0°. On completion of the addition, the dark mixture was allowed to warm to room temperature, stirred at this temperature for 2 hours, then heated under reflux overnight. The reaction mixture was cooled, water (500 ml) added and the mixture extracted with diethyl ether (2×250 ml). The combined extracts were washed with water (500 ml), saturated sodium bicarbonate solution (500 ml) and brine (500 ml), dried (MgSO4) and evaporated to give a brown oil. Column chromatography of this oil on silica (eluent 1:1 hexane:dichloromethane) afforded the title compound as a pale yellow oil 4.9 g, 44%.

reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | diethyl malonate | 50 mM, 7.6 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | chloroacetaldehyde | 63 mM, 5 g | ClCC=O | C2H3ClO
reactant | pyridine | 0.2M, 16 ml | N1=CC=CC=C1 | C5H5N
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | titanium (IV) chloride | 0.1M, 11 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | water | 500 ml | O | H2O
product | Diethyl-2-chloroethylidene malonate | 4.9 g, 44% | C1(CC(=O)OC(C(Cl)(CC)CC)O1)=O | C9H13ClO4
